US08466143B2
Preparation of 3,6,7,8-tetrahydro-imidazo[4,5-D]azepine-4-carboxylic acid ethyl ester
A mixture of histamine dihydrochloride (5.52 g, 30 mmol), ethyl bromopyruvate (5.0 mL, 36 mmol), and active carbon (500 mg) in anhydrous EtOH (80 mL) was refluxed under nitrogen for 24 hours. After cooling to room temperature, Et3N (30 mL) was added, and the mixture was refluxed at 90° C. for 6 hours. The active carbon was filtered off, and the filtrate was concentrated in vacuo. The residue was taken up in CHCl3, and washed twice with water, then dried over Na2SO4, and evaporated in vacuo. The residual oil was purified by column chromatography on silica gel eluting with hexane-EtOAc (60:40) to give the title compound as a pale-yellow solid. 1H-NMR (CDCl3): δ 7.49 (1H, d)), 7.00 (1H, s), 6.79 (1H, s), 4.85 (1H, br s), 4.30 (2H, q), 3.38 (2H, m), 3.06 (2H, m), 1.36 (3H, t); MS (ES): 208 (MH+).

reactant | histamine dihydrochloride | 30 mmol, 5.52 g | Cl.Cl.NCCC1=CNC=N1
reactant | ethyl bromopyruvate | 36 mmol, 5.0 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | Et3N | 30 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 80 mL | CCO | C2H6O
product | 3,6,7,8-tetrahydro-imidazo[4,5-D]azepine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(CCNC1)N=CN2 | C10H13N3O2
